US04100278
30 ml of water, 40 ml of acetic acid and 20 g of 1,2,4,5-tetrahydro-N-tosyl-[3H]-1-benzazepine-3-one [J. Chem. So., Vol. C (1970), p.2192] were successively added to 300 ml of ethanol and then 20 g of sodium cyanide were added thereto over 2 minutes. The mixture was stirred for 4 hours at room temperature and was then concentrated to 100 ml under reduced pressure. The mixture was extracted with ether and the ether extracts were washed with water, dried over magnesium sulfate and filtered. The filtrate was evaporated to dryness under reduced pressure to obtain 21 g of raw product which was crystallized from a minimum of ether. The mixture was vacuum filtered to obtain 14 g of 3-hydroxy-1-(4-methylphenylsulfonyl)-1,2,4,5-tetrahydro-[3H]-1-benzazepine-3-carbonitrile in the form of colorless crystals melting at 128°C.

reactant | water | 30 ml | O | H2O
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | 1,2,4,5-tetrahydro-N-tosyl-[3H]-1-benzazepine-3-one | 20 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1CC(CCC2=C1C=CC=C2)=O | C17H17NO3S
reactant | sodium cyanide | 20 g | [C-]#N.[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3-hydroxy-1-(4-methylphenylsulfonyl)-1,2,4,5-tetrahydro-[3H]-1-benzazepine-3-carbonitrile | 14 g | OC1(CN(C2=C(CC1)C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C)C#N | C18H18N2O3S
